US06559145B2
Methyl 1,6-Dimethyl-1H-4,1,2-benzothiadiazine-3-carboxylate 4,4-Dioxide [BX.5]
Potassium carbonate (2.25 g) and iodomethane (0.60 g) is added to a solution of methyl 6-methyl-1H-4,1,2-benzothiadiazine-3-carboxylate 4,4-dioxide (Preparation 39, 0.83 g) in DMF (20 mL). The mixture is stirred at room temperature for 5 hours and then added to CH2Cl2 (120 mL) and washed with water (4×100 mL). The organic layer is dried with Na2SO4, filtered and the solvent evaporated. The crude solid is recrystallized (1% CH2Cl2/MeOH) to obtain 0.74 g (85%) of the title compound as a yellow crystalline solid. Physical characteristics: MS (ESI+) m/z 269 (M+H).

reactant | Potassium carbonate | 2.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.60 g | IC | CH3I
reactant | methyl 6-methyl-1H-4,1,2-benzothiadiazine-3-carboxylate 4,4-dioxide | 0.83 g | CC=1C=CC2=C(S(C(=NN2)C(=O)OC)(=O)=O)C1 | C10H10N2O4S
reactant | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Methyl 1,6-Dimethyl-1H-4,1,2-benzothiadiazine-3-carboxylate 4,4-Dioxide | 0.74 g, 85% | CN1N=C(S(C2=C1C=CC(=C2)C)(=O)=O)C(=O)OC | C11H12N2O4S
